US08754100B2
Synthesis of 4-(3-trifluoromethylphenyl)tetrahydropyran-2-one
(Acetylacetonato)bis(ethylene)rhodium (I) (180 mg) was dissolved in 1,4-dioxane (144 mL). Racemic BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthalene) (867 mg) was added at room temperature, followed by stirring for 30 minutes. Subsequently, water (14.4 mL) and 3-(trifluoromethyl)phenylboronic acid (5.29 g) were added, followed by stirring for 10 minutes. Then, 5,6-dihydro-2H-pyran-2-one (2 mL) was added and the mixture was reacted at 100° C. for 12 hours. The reaction solution was partitioned with ethyl acetate and water. Then, the organic layer was washed with a saturated sodium bicarbonate solution and dried over magnesium sulfate. Concentration under reduced pressure gave an oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 60%) to obtain the title compound (2.5 g).

reactant | BINAP | 867 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | water | 14.4 mL | O | H2O
reactant | 3-(trifluoromethyl)phenylboronic acid | 5.29 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | 5,6-dihydro-2H-pyran-2-one | 2 mL | O1C(C=CCC1)=O | C5H6O2
solvent | 1,4-dioxane | 144 mL | O1CCOCC1 | C4H8O2
product | 4-(3-trifluoromethylphenyl)tetrahydropyran-2-one | 2.5 g | FC(C=1C=C(C=CC1)C1CC(OCC1)=O)(F)F | C12H11F3O2
